US08754079B2
246.1 [2-({4-[2-(trans-3-Acetylamino-cyclobutoxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carbonyl}amino)-cyclopropyl]-carbamic acid tert-butyl ester
Prepared analogously to 35.3 from 0.080 g 4-[2-(trans-3-acetylamino-cyclobutoxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (cpd. 35.2) and 0.050 g tert-butyl (1R,2R)-2-aminocyclopropylcarbamate hydrochloride.

reactant | 4-[2-(trans-3-acetylamino-cyclobutoxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 0.080 g | C(C)(=O)N[C@@H]1C[C@H](C1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O | C20H19FN4O4S
reactant | tert-butyl (1R,2R)-2-aminocyclopropylcarbamate hydrochloride | 0.050 g | Cl.N[C@H]1[C@@H](C1)NC(OC(C)(C)C)=O
product | [2-({4-[2-(trans-3-Acetylamino-cyclobutoxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carbonyl}amino)-cyclopropyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1C(C1)NC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2C[C@H](C2)NC(C)=O)S1)C)=O | C28H33FN6O5S
